US05260307
A solution of 10.7 g of t-butyl (R)-4-hydroxymethyl-2,2-dimethyl-3-oxazolidinecarboxylate (J. Org. Chem. 52, 1987, 2361-64) in 107 ml of pyridine is treated with 9.7 g of p-toluenesulphonyl chloride. The reaction mixture is stirred for 17 hours, then taken up in ethyl acetate and washed with water. After drying and evaporation the residue is purified over silica gel with hexane/ethyl acetate (3:1). There are obtained 15.1 g of t-butyl (S)-2,2-dimethyl-4-(p-tolylsulfonyloxymethyl)-3-oxazolidinecarboxylate.

reactant | t-butyl (R)-4-hydroxymethyl-2,2-dimethyl-3-oxazolidinecarboxylate | 10.7 g | OC[C@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C11H21NO4
reactant | p-toluenesulphonyl chloride | 9.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 107 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl (S)-2,2-dimethyl-4-(p-tolylsulfonyloxymethyl)-3-oxazolidinecarboxylate | 15.1 g | CC1(OC[C@H](N1C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C=C1)C)C | C18H27NO6S
